US06166037
Step A: 1-Phenylmethyl-3-(SR)-carbomethoxy-4-(SR)-phenylpyrrolidine
A solution of 1.98 g (12.2 mmol) of methyl (Z)-cinnamate and 5.80 g (24.4 mmol) N-(methoxymethyl)-N-(trimethylsilylmethyl)-benzylamine in 30 mL of CH2Cl2 at 0° C. was treated with 20 drops of trifluoroacetic acid and stirred cold for 1 h. The reaction mixture was partitioned between 200 mL of ether and 100 mL of sat'd NaHCO3 and the layers were separated. The organic layer was washed with 100 mL of sat'd NaCl, dried over MgSO4 and concentrated in vacuo. Flash chromatography on 150 g of silica gel using 20:1 v/v CH2Cl2/ether as the eluant afforded 2.61 g (72%) of the title compound as an oil. 1H NMR (500 MHz, CDCl3): δ2.83 (t, J=8.7, 1H), 3.09-3.19 (m, 6H), 3.16 (s, 3H), 3.46-3.51 (m, 1H), 3.73-3.79 (m, 3H), 7.19-7.42 (1OH). Mass Spectrum (NH3 -CI): m/z 296 (M+1).

reactant | methyl (Z)-cinnamate | 12.2 mmol, 1.98 g | C(\C=C/C1=CC=CC=C1)(=O)OC | C10H10O2
reactant | N-(methoxymethyl)-N-(trimethylsilylmethyl)-benzylamine | 24.4 mmol, 5.80 g | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | trifluoroacetic acid | 20 drops | FC(C(=O)O)(F)F | C2HF3O2
product | 1-Phenylmethyl-3-(SR)-carbomethoxy-4-(SR)-phenylpyrrolidine | 2.61 g, 72% | C1(=CC=CC=C1)CN1CC(C(C1)C1=CC=CC=C1)C(=O)OC | C19H21NO2
